*******************************************************************************
* LMR51430 SPICE Behavioral Model - ngspice Compatible
* Texas Instruments Buck Converter - 4.5-36V In, 3A Out
*
* Version 4.0 - Simplified robust switching model
*
* This uses a behavioral voltage source for the switch node
* which avoids convergence issues with discrete switches.
*******************************************************************************

*------------------------------------------------------------------------------
* LMR51430X - 500kHz Version  
*------------------------------------------------------------------------------
.SUBCKT LMR51430X VIN GND EN SW FB CB

*==============================================================================
* PARAMETERS
*==============================================================================
.PARAM VREF=0.6
.PARAM VEN_TH=1.2
.PARAM VIN_UVLO=4.0
.PARAM FSW=500K
.PARAM TPER=2U

*==============================================================================
* INPUT VOLTAGE BUFFER (avoids ngspice port reference issues)
*==============================================================================
EVIN VIN_SENSE GND VIN GND 1.0
EEN EN_SENSE GND EN GND 1.0

*==============================================================================
* ENABLE / UVLO 
*==============================================================================
* Smooth enable signal
BENABLE ENABLE GND V = (1/(1+exp(-10*(V(VIN_SENSE)-VIN_UVLO)))) * (1/(1+exp(-10*(V(EN_SENSE)-VEN_TH))))

*==============================================================================
* SOFT START (4ms time constant)
*==============================================================================
* RC soft start
RSS ENABLE SS_IN 1K
CSS SS_IN GND 4U IC=0

* Clamp to VREF
BSS_CLAMP SS GND V = min(V(SS_IN), VREF)

*==============================================================================
* ERROR AMPLIFIER
*==============================================================================
* Reference (soft-start limited)
BREF REF GND V = V(SS) * V(ENABLE)

* Error = REF - FB (positive error means output too low)
BERROR ERROR GND V = V(REF) - V(FB)

* PI controller with limited output
* Proportional path
BP PROP GND V = V(ERROR) * 2

* Integral path (slow integrator)
GI GND INT ERROR GND 10U
RI INT GND 1MEG
CI INT GND 100N IC=0.4

* Combine and clamp to valid duty cycle range (10% to 90%)
BEA EA GND V = min(max(V(PROP) + V(INT), 0.1), 0.9)

*==============================================================================
* PWM MODULATOR
*==============================================================================
* Sawtooth 0 to 1 at 500kHz
VRAMP RAMP GND PULSE(0 1 0 {TPER*0.99} {TPER*0.005} {TPER*0.005} {TPER})

* PWM comparator: duty cycle = EA output
* Output is 1 when EA > RAMP, 0 otherwise
BPWM PWM GND V = 1/(1+exp(-50*(V(EA)-V(RAMP))))

* Apply enable
BPWM_EN PWM_EN GND V = V(PWM) * V(ENABLE)

*==============================================================================
* SWITCH NODE - Behavioral Model
*==============================================================================
* SW = PWM * VIN when on, 0 when off (body diode handles negative)
BSW SW GND V = V(PWM_EN) * V(VIN_SENSE)

* Body diode clamp (allows SW to go slightly negative)
DSW_LO GND SW DBODY
.MODEL DBODY D IS=1E-9 RS=0.05 N=1.5

*==============================================================================
* BOOTSTRAP (simplified)
*==============================================================================
BCB CB GND V = V(SW) + 5

*==============================================================================
* QUIESCENT CURRENT (for efficiency estimation)
*==============================================================================
IQ VIN GND DC 1M

.ENDS LMR51430X


*------------------------------------------------------------------------------
* Other variants (same core, different params)
*------------------------------------------------------------------------------
.SUBCKT LMR51430XF VIN GND EN SW FB CB
XU VIN GND EN SW FB CB LMR51430X
.ENDS LMR51430XF

.SUBCKT LMR51430Y VIN GND EN SW FB CB
* 1.1MHz version
.PARAM VREF=0.6
.PARAM TPER=909N

* Input buffers
EVIN VIN_S GND VIN GND 1.0
EEN EN_S GND EN GND 1.0

BENABLE EN_OK GND V = (1/(1+exp(-10*(V(VIN_S)-4)))) * (1/(1+exp(-10*(V(EN_S)-1.2))))
RSS EN_OK SS_I 1K
CSS SS_I GND 4U IC=0
BSS SS GND V = min(V(SS_I), VREF)
BREF REF GND V = V(SS)*V(EN_OK)
BERR ERR GND V = V(REF)-V(FB)
BP P GND V = V(ERR)*2
GI GND I ERR GND 10U
RI I GND 1MEG
CI I GND 100N IC=0.4
BEA EA GND V = min(max(V(P)+V(I), 0.1), 0.9)
VRAMP RAMP GND PULSE(0 1 0 {TPER*0.99} {TPER*0.005} {TPER*0.005} {TPER})
BPWM PWM GND V = 1/(1+exp(-50*(V(EA)-V(RAMP))))
BPWM_E PE GND V = V(PWM)*V(EN_OK)
BSW SW GND V = V(PE)*V(VIN_S)
DSW GND SW DBD
.MODEL DBD D IS=1E-9 RS=0.05 N=1.5
BCB CB GND V = V(SW)+5
IQ VIN GND DC 1M
.ENDS LMR51430Y

.SUBCKT LMR51430YF VIN GND EN SW FB CB
XU VIN GND EN SW FB CB LMR51430Y
.ENDS LMR51430YF


*******************************************************************************
* AVERAGED MODEL (no switching, very fast)
*******************************************************************************
.SUBCKT LMR51430_AVG VIN GND EN SW FB CB

.PARAM VREF=0.6

* Input buffers
EVIN VIN_S GND VIN GND 1.0
EEN EN_S GND EN GND 1.0

* Enable
BEN EN_OK GND V = (1/(1+exp(-10*(V(VIN_S)-4)))) * (1/(1+exp(-10*(V(EN_S)-1.2))))

* Soft start
RSS EN_OK SS_I 1K
CSS SS_I GND 4U IC=0
BSS SS GND V = min(V(SS_I), VREF)

* Reference
BREF REF GND V = V(SS) * V(EN_OK)

* Error amp
BERR ERR GND V = V(REF) - V(FB)
GI GND EA ERR GND 10U
RI EA GND 1MEG
CI EA GND 100N IC=0.4

* Duty cycle
BD D GND V = min(max(V(EA), 0.05), 0.95)

* Averaged SW voltage
BSW SW GND V = V(D) * V(VIN_S) * V(EN_OK)

BCB CB GND V = V(SW) + 5

.ENDS LMR51430_AVG

*******************************************************************************
