*******************************************************************************
* LMR51430 Simplified SPICE Model for Fast Simulation
* 
* This is a simplified behavioral model optimized for:
* - Quick design iteration
* - Stability analysis
* - Component value optimization
* - Thermal estimation
*
* Trade-offs:
* - Less accurate transient behavior
* - Simplified protection features
* - Averaged switching behavior
*
* Use the full model (LMR51430.lib) for detailed timing analysis
*******************************************************************************

.SUBCKT LMR51430_SIMPLE VIN GND EN SW FB CB PARAMS: FSW=500K VOUT=5

* Key parameters from datasheet
.PARAM VREF=0.6
.PARAM VEN_TH=1.2
.PARAM VIN_UVLO=4.0
.PARAM RDSON_HS=0.12
.PARAM RDSON_LS=0.07
.PARAM ILIMIT=4.5
.PARAM EFF=0.92

* =====================================================
* ENABLE AND UVLO LOGIC
* =====================================================
* Simple threshold comparators
BE_EN EN_OK GND V = IF(V(EN,GND) > VEN_TH, 1, 0)
BE_UVLO UVLO_OK GND V = IF(V(VIN,GND) > VIN_UVLO, 1, 0)
BE_READY READY GND V = V(EN_OK) * V(UVLO_OK)

* =====================================================
* SOFT START (Simplified)
* =====================================================
RSS SS_INT GND 1MEG
CSS SS_INT GND 4N IC=0  ; 4ms time constant
BSS_CHG SS_INT GND I = IF(V(READY) > 0.5, 1U, -V(SS_INT)/100)
BSS SS GND V = LIMIT(V(SS_INT), 0, 1)

* =====================================================
* DUTY CYCLE CALCULATION
* =====================================================
* Ideal duty cycle based on voltage ratio
BD_IDEAL D_IDEAL GND V = {VOUT/36}  ; Normalized to max VIN
BD_ACTUAL D_ACTUAL GND V = V(SS) * V(VOUT_INT) / (V(VIN,GND) + 1M)

* =====================================================
* SIMPLIFIED CONTROL LOOP
* =====================================================
* Error amplifier (Type II compensated)
VERR_REF ERR_REF GND DC {VREF}
GEA EA_OUT GND ERR_REF FB 100U
REA EA_OUT GND 100K
CEA EA_OUT GND 1N

* Control to duty cycle
BD_CTRL D_CTRL GND V = LIMIT(V(EA_OUT)/2.5, 0.05, 0.95)

* =====================================================
* AVERAGED SWITCH MODEL
* =====================================================
* Switch node voltage = D * VIN
BSW SW GND V = V(READY) * V(D_CTRL) * V(VIN,GND)

* Internal output voltage estimate (for feedback)
BVOUT VOUT_INT GND V = V(FB,GND) * (1 + 100K/13.7K)

* =====================================================
* CURRENT LIMITING
* =====================================================
* Estimate output current from power balance
* Iout ≈ (VIN * D * Eff) / VOUT
BIOUT IOUT_EST GND V = V(VIN,GND) * V(D_CTRL) * EFF / (V(VOUT_INT) + 0.1)
BILIM I_LIMITED GND V = IF(V(IOUT_EST) > ILIMIT, ILIMIT, V(IOUT_EST))

* =====================================================
* BOOTSTRAP VOLTAGE (Simplified)
* =====================================================
BCB CB GND V = V(SW) + 5

* =====================================================
* POWER DISSIPATION ESTIMATE
* =====================================================
* Conduction losses
.PARAM PLOSS_SW = 0.1  ; Switching loss coefficient
BPLOSS PLOSS GND V = V(I_LIMITED)*V(I_LIMITED)*(V(D_CTRL)*RDSON_HS + (1-V(D_CTRL))*RDSON_LS) + PLOSS_SW*V(VIN,GND)*V(I_LIMITED)*FSW/1E6

.ENDS LMR51430_SIMPLE


*******************************************************************************
* IDEAL BUCK CONVERTER MODEL
* Use for initial filter design and stability analysis
*******************************************************************************

.SUBCKT BUCK_IDEAL VIN GND VOUT_NODE D_NODE
* Ideal transformer model of buck converter
* D_NODE is duty cycle input (0 to 1)

* Input current = D * Iout
GIN VIN GND VOUT_NODE GND {1}
HSCALE GND N_SCALE D_NODE GND 1
EIN N_IN GND POLY(2) N_SCALE GND VOUT_NODE GND 0 0 0 0 1

* Output voltage = D * VIN  
EOUT VOUT_NODE GND POLY(2) D_NODE GND VIN GND 0 0 0 0 1

.ENDS BUCK_IDEAL


*******************************************************************************
* AVERAGED PWM SWITCH MODEL (Vorperian Model)
* For small-signal and stability analysis
*******************************************************************************

.SUBCKT PWM_SWITCH_AVG A P C PARAMS: L=6.8U FS=500K

* Nodes: A=active (high side), P=passive (low side), C=common (SW)
* Based on Vorperian's PWM switch model

* Duty cycle input (external)
.PARAM D=0.4  ; Default duty cycle

* Averaged model equations
* Ia = D * Ic
* Vcp = D * Vap

* Current-controlled current source
GCCP C P VALUE = {D * I(VAP)}

* Voltage-controlled voltage source  
EVCP V_C P VALUE = {D * V(A,P)}
RVCP V_C C 1M

* Sense element
VAP A N_A DC 0
RN N_A P 1M

.ENDS PWM_SWITCH_AVG
